US06531597B2
8.56 g (28.1 mmol) [4-(2-Chloro-phenyl)-6-morpholin-4-yl-pyridin-3-yl]-methyl-amine were dissolved in 50 ml dichloromethane in the presence of 5.5 ml (1.4 eq.) triethylamine and cooled to 0° C. A solution of 10.8 g (1.05 eq.) 2-(3,5-bistrifluoromethyl-phenyl)-2-methyl-propionyl chloride (step a) in 10 ml dichloromethane was added slowly and after 2 hours, 80 ml water was added. After 15 minutes stirring, the phases were separated, the aqueous phase was extracted with 2 portions of 80 ml dichloromethane and the combined organic extracts were washed with 80 ml water, 80 ml 2% aqueous NaOH, 80 ml water and 80 ml 5% aqueous NaHCO3, dried over Na2SO4 and concentrated under reduced pressure. Crystallization from 40 ml 2-propanol and 20 ml ethanol at −20° C. yielded 14.2 g (86%) of 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-morpholin-4-yl-pyridin-3-yl]-N-methyl-isobutyramide as a white powder of m.p.=134.4-135.5° C.

reactant | [4-(2-Chloro-phenyl)-6-morpholin-4-yl-pyridin-3-yl]-methyl-amine | 28.1 mmol, 8.56 g | ClC1=C(C=CC=C1)C1=C(C=NC(=C1)N1CCOCC1)NC | C16H18ClN3O
reactant | triethylamine | 5.5 ml, 1.4 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-(3,5-bistrifluoromethyl-phenyl)-2-methyl-propionyl chloride | 10.8 g, 1.05 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | water | 80 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-morpholin-4-yl-pyridin-3-yl]-N-methyl-isobutyramide | 14.2 g, 86% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)N1CCOCC1)(C)C)(F)F | C28H26ClF6N3O2
